US04912115
2-[N-Methyl-N-(2-(pyridin-2-yl)-ethyl)-3-amino-propyl]-5,6-dimethoxy-phthalimide
Prepared from 2-(2-formyl-ethyl)-5,6-dimethoxy-phthalimide and 2-(2-methylamino-ethyl)-pyridine analogously to Example 4.

reactant | 2-(2-formyl-ethyl)-5,6-dimethoxy-phthalimide | C(=O)CCC12C(C(=O)NC1=O)C(=C(C=C2)OC)OC | C13H15NO5
reactant | 2-(2-methylamino-ethyl)-pyridine | CNCCC1=NC=CC=C1 | C8H12N2
product | 2-[N-Methyl-N-(2-(pyridin-2-yl)-ethyl)-3-amino-propyl]-5,6-dimethoxy-phthalimide | CN(CCCC12C(C(=O)NC1=O)C(=C(C=C2)OC)OC)CCC2=NC=CC=C2 | C21H27N3O4
